US05298652
The reaction of 2,5-dihydroxybenzoic acid methyl ester with 12-phenoxydodecyl bromide under condition described in Example 101 gave 2-hydroxy-5-[(12-phenoxydodecyl)oxy]benzoic acid methyl ester (75% yield, mp 61°-64° ).

reactant | 2,5-dihydroxybenzoic acid methyl ester | COC(C1=C(C=CC(=C1)O)O)=O | C8H8O4
reactant | 12-phenoxydodecyl bromide | O(C1=CC=CC=C1)CCCCCCCCCCCCBr | C18H29BrO
product | 2-hydroxy-5-[(12-phenoxydodecyl)oxy]benzoic acid methyl ester | 75% yield | COC(C1=C(C=CC(=C1)OCCCCCCCCCCCCOC1=CC=CC=C1)O)=O | C26H36O5
